US06440941B1
Stage A: 2-[4-[3-(3-Pyridinyl)-1H-pyrazol-1-yl]butyl]-1H-isoindole-1,3(2H)-dione
15.45 g of 3-(1H pyrazol-3-yl)-pyridine prepared as indicated in CA 68 P 95812 g (1968) is introduced dropwise over 1 hour while maintaining the temperature below 30° C. or equal to 30° C. into a mixture of 20 ml of DMF and 6.13 g of sodium hydride. A solution of 29.90 g of 2-(4-bromobutyl)-1H-isoindole-1,3(2H)-dione and 110 ml of DMF is added dropwise. The reaction medium is agitated for 30 minutes at ambient temperature, followed by concentrating, pouring into 300 ml of water cooled down to 10° C., extracting with ethyl acetate, washing with water, drying, filtering and concentrating. The residue is taken up in methylene chloride, followed by drying, filtering and concentrating. 35.87 of a product is obtained which is crystallized from ethyl ether, dried, washed with water and dried. 22.93 g of sought product is obtained.

reactant | 3-(1H pyrazol-3-yl)-pyridine | 15.45 g | N1N=C(C=C1)C=1C=NC=CC1 | C8H7N3
reactant | sodium hydride | 6.13 g | [H-].[Na+]
reactant | 2-(4-bromobutyl)-1H-isoindole-1,3(2H)-dione | 29.90 g | BrCCCCN1C(C2=CC=CC=C2C1=O)=O | C12H12BrNO2
solvent | DMF | 110 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-[4-[3-(3-Pyridinyl)-1H-pyrazol-1-yl]butyl]-1H-isoindole-1,3(2H)-dione | 22.93 g | N1=CC(=CC=C1)C1=NN(C=C1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C20H18N4O2
